US06458772B1
c) 2-(N-(chloromethoxycarbonyl)-amino)-2-methyl-1-(N-benzyloxycarbonyl-L-valyloxy)-propane
To a solution of 2-amino-2-methyl-1-(N-benzyloxycarbonyl-L-valyloxy)-propane (2.9 g, 9 mmole) and pyridine (2 ml) in dichloromethane (50 ml) was added chloromethyl chloroformate(1.55 g, 12 mmole) and the mixture was stirred for 3 hours at room temperature. The mixture was evaporated under reduced pressure and ethyl acetate was added. The organic phase was washed with water, dried with sodium sulfate and evaporated under reduced pressure. The product was isolated by silica gel column chromatography with hexane/ethyl acetate. Yield: 1.1 g=29%.

reactant | 2-amino-2-methyl-1-(N-benzyloxycarbonyl-L-valyloxy)-propane | 9 mmole, 2.9 g | NC(COC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O)(C)C | C17H26N2O4
reactant | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
reactant | chloromethyl chloroformate | 12 mmole, 1.55 g | ClC(=O)OCCl | C2H2Cl2O2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-(N-(chloromethoxycarbonyl)-amino)-2-methyl-1-(N-benzyloxycarbonyl-L-valyloxy)-propane | ClCOC(=O)NC(COC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O)(C)C | C19H27ClN2O6
